US05965562
g) (2R*,4S*)-1-(3,5-Bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidine-4-amine
A solution of 200 mg (0.32 mmol) of (2R*,4S*)-N-acetyl-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester is added in 5 ml of methanol to a solution, stirred under an inert gas, of 0.04 ml (0.06 mmol) of n-butyllithium in hexane (1.6 M). After 1 hour, 5 mg (0.08 mmol) of acetic acid are added and the mixture is concentrated to dryness by evaporation. The residue is taken up in 2 ml of methylene chloride and 1.2 ml of trifluoroacetic acid and the mixture is stirred for 2.5 hours at room temperature. The mixture is diluted with methylene chloride and washed with 2 N sodium hydroxide solution. The organic phase is dried over sodium sulfate, filtered and concentrated to dryness. The title compound is obtained in the form of a beige foam. TLC: dichloromethane/methanol/conc. ammonia (90:9:0.5) Rf =0.38. 1H-NMR (200 MHz, D2O): rotameric mixture; δ: 8.28-8.08 (m, 2H), 7.94-7.79 (m, 1H), 7.60-7.40 (m, 2H), 7.21-7.02 (m, 2H), 5.40-5.22 (m, 0.5H), 4.85-4.68 (m, 0.5H), 4.00-3.86 (m, 0.5H), 3.56-3.00 (m, 3H), 2.82-2.70 (m, 0.5H), 2.20-1.86 (m, 2H), 1.6-1.2 (m, 2H).

reactant | (2R*,4S*)-N-acetyl-N-[1-(3,5-bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.32 mmol, 200 mg | C(C)(C)(C)OC(N([C@@H]1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O)=O | C28H29F6N3O6
reactant | n-butyllithium | 0.06 mmol, 0.04 ml | C(CCC)[Li]
reactant | acetic acid | 0.08 mmol, 5 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | (2R*,4S*)-1-(3,5-Bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidine-4-amine | FC(C=1C=C(C(=O)N2[C@@H](C[C@H](CC2)N)CC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)C(F)(F)F)(F)F | C21H19F6N3O3
